US09278944B2
To a suspension of methyl 3-amino-4-methyl-5-nitrobenzoate (36.0 g) in 6-normal hydrochloric acid (276 mL) was added dropwise a solution nitrite (13.0 g) in water (35 mL) under ice-salt-cooling over 20 minutes, and the mixture was stirred under ice-cooling for 1 hour. Then, thereto was added dropwise a solution of potassium iodide (34.1 g) in water (280 mL) under ice-cooling over 20 minutes, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added water under ice-cooling, and the mixture was extracted with chloroform. The organic layer was sequentially washed with aqueous saturated sodium thiosulfate solution and saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=50/1) to give methyl 3-iodo-4-methyl-5-nitrobenzoate [REx(14-1)] (40.5 g) as a yellow powder.

reactant | methyl 3-amino-4-methyl-5-nitrobenzoate | 36.0 g | NC=1C=C(C(=O)OC)C=C(C1C)[N+](=O)[O-] | C9H10N2O4
reactant | nitrite | 13.0 g | N(=O)[O-]
reactant | potassium iodide | 34.1 g | [I-].[K+]
solvent | hydrochloric acid | 276 mL | Cl | ClH
solvent | water | 35 mL | O | H2O
solvent | water | 280 mL | O | H2O
product | methyl 3-iodo-4-methyl-5-nitrobenzoate | 40.5 g | IC=1C=C(C(=O)OC)C=C(C1C)[N+](=O)[O-] | C9H8INO4
